US06313126B1
(1-Oxy-pyridin-3-yl)-acetonitrile
A solution of 3-pyridylacetonitrile (11 g, 93.1 mmol), HOAc (55 mL), and 30% H2O2 (17 mL) was heated at 95° C. overnight, and at room temperature for 72 hours. H2O (50 mL) was added to the reaction mixture and the resulting solution was concentrated. This was repeated with additional H2O (100 mL). Toluene (2×100 mL) was used to remove residual H2O, and the resulting white solid was dried under vacuum overnight affording a waxy white solid: mp 120-125° C.; MS(+)APCI m/z 135 [M+H]+.

reactant | 3-pyridylacetonitrile | 93.1 mmol, 11 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | HOAc | 55 mL | CC(=O)O | C2H4O2
reactant | H2O2 | 17 mL | OO | H2O2
solvent | H2O | 50 mL | O | H2O
product | (1-Oxy-pyridin-3-yl)-acetonitrile | C1=CC(=C[N+](=C1)[O-])CC#N | C7H6N2O
